US09169248B2
To a cooled (−78° C.) solution of ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]acetate (790 mg, 3.01 mmol) in THF (6 mL) under nitrogen atmosphere was added LDA (2 M, 3 mL, 6.03 mmol) drop wise. After stirring the reaction mixture at −78° C. for 15 min, allyl bromide (521 μL, 6.03 mmol) was added slowly and the reaction mixture was allowed to warm to room temperature and stirred for 2 h. A saturated NH4Cl solution (20 mL) was added to the reaction mixture at 0° C. and the mixture was then extracted with EtOAc (2×100 mL). The combined EtOAc layers were then washed with brine (50 mL), dried (MgSO4), concentrated in vacuo, and purified by flash chromatography (SiO2, 80% EtOAc/hexanes) to obtain ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoate (127 mg, 0.42 mmol, 14% yield).

reactant | ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]acetate | 3.01 mmol, 790 mg | CC=1N(C(=C(N1)C(F)(F)F)C=C)CC(=O)OCC | C11H13F3N2O2
reactant | LDA | 6.03 mmol, 2 M, 3 mL | [Li+].CC(C)[N-]C(C)C
reactant | allyl bromide | 6.03 mmol, 521 μL | C(C=C)Br | C3H5Br
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | ethyl 2-[2-methyl-4-(trifluoromethyl)-5-vinyl-imidazol-1-yl]pent-4-enoate | 0.42 mmol, 127 mg, 14% yield | CC=1N(C(=C(N1)C(F)(F)F)C=C)C(C(=O)OCC)CC=C | C14H17F3N2O2
